US07265120B2
A mixture of ethyl {[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}acetate (14.0 g) and ammonium acetate (21.0 g) in AcOH (60 ml) was refluxed with stirring for 2 hours. Water, aq. NaHCO3 and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain 6-(5-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (3.0 g) as white powder.

reactant | ethyl {[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]amino}acetate | 14.0 g | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NCC(=O)OCC | C19H23N3O4
reactant | ammonium acetate | 21.0 g | C(C)(=O)[O-].[NH4+]
reactant | Water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 60 ml | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(5-hydroxy-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 3.0 g | OC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16N4O2
